US08980887B2
N-(2-methoxyethyl)-N-(2-pyridinylmethyl)-2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride (Compound 5)
According to the method of Example 14, 2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid and N-(2-pyridinylmethyl)-2-methoxyethylamine were used as raw materials for synthesis, white solid powder, yield 46.0%. m.p. 238-239° C., ESI-MS m/z: 450[M+H]+, 1H NMR(D2O, 400 MHz)δ: 2.37(s, 2.5H), 2.39(s, 0.5H), 3.10(s, 0.5H), 3.14(s, 2.5H), 3.52(t, 2H, J=4.76 Hz) 3.74(t, 2H, J=4.76 Hz), 4.15(s, 0.4H), 4.41(s, 1.6H), 4.76(s, 1.6H), 4.85(s, 0.4H), 7.15-7.23(m, 1H), 7.30-7.47(m, 4H), 7.50(s, 1H), 7.60-7.70(m, 2H), 8.09-8.11(m, 1H), 8.25-8.45(m, 2H).

reactant | 2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid | ClC1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)C)C1CC(=O)O | C16H13ClN2O2
reactant | N-(2-pyridinylmethyl)-2-methoxyethylamine | N1=C(C=CC=C1)CNCCOC | C9H14N2O
product | N-(2-methoxyethyl)-N-(2-pyridinylmethyl)-2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride | yield 46.0% | Cl.COCCN(C(CC1=C(N=C2N1C=CC(=C2)C)C2=CC=C(C=C2)Cl)=O)CC2=NC=CC=C2 | InChI=1S/C25H25ClN4O2.ClH/c1-18-10-12-30-22(25(28-23(30)15-18)19-6-8-20(26)9-7-19)16-24(31)29(13-14-32-2)17-21-5-3-4-11-27-21;/h3-12,15H,13-14,16-17H2,1-2H3;1H
